US09340544B2
(4-Chloro-phenyl)-[2-(3,5-dimethyl-pyrazol-1-yl)-9-isobutyl-9H-purin-6-yl]-amine (Compound 9.2)
Was prepared according to Example 9 from (4-chloro-phenyl)-(2-hydrazino-9-isobutyl-9H-purin-6-yl)-amine and 2,4-pentanedione.

reactant | (4-chloro-phenyl)-(2-hydrazino-9-isobutyl-9H-purin-6-yl)-amine | ClC1=CC=C(C=C1)NC1=C2N=CN(C2=NC(=N1)NN)CC(C)C | C15H18ClN7
reactant | 2,4-pentanedione | CC(CC(C)=O)=O | C5H8O2
product | (4-Chloro-phenyl)-[2-(3,5-dimethyl-pyrazol-1-yl)-9-isobutyl-9H-purin-6-yl]-amine | ClC1=CC=C(C=C1)NC1=C2N=CN(C2=NC(=N1)N1N=C(C=C1C)C)CC(C)C | C20H22ClN7
